US05622965
Synthesis of 6, 7-Dichloro-3-nitro-4-hydroxy-1,2-dihydroquinolin-2-one
To a mixture of 1.25 g (5.43 mmol) of 5,6-dichloro-2,4-dihydroxyquinoline and 6,7-dichloro-2,4-dihydroxyquinoline in 8 mL of glacial acetic acid was added 1.5 mL of HNO3 (69-71%) and the mixture was heated at 90° C. for 2 h. The mixture was cooled to room temperature, filtered and washed with water, and dried to leave 280 mg (19%) of the title compound as a yellow solid, mp 235°-236° C. (decomposed). 1H NMR (CDCl3 +DMSO-d6), 7.362 (s, 1), 8.039 (s, 1), 11.369 (s, 1). MS, 274 (50, M+), 214 (100), 187 (18), 160 (20). High resolution MS, Calcd for C9H435Cl2N2O4 273.9544, found 273.9548.

reactant | 5,6-dichloro-2,4-dihydroxyquinoline | 5.43 mmol, 1.25 g | ClC1=C2C(=CC(=NC2=CC=C1Cl)O)O | C9H5Cl2NO2
reactant | 6,7-dichloro-2,4-dihydroxyquinoline | ClC=1C=C2C(=CC(=NC2=CC1Cl)O)O | C9H5Cl2NO2
reactant | HNO3 | 1.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 6, 7-Dichloro-3-nitro-4-hydroxy-1,2-dihydroquinolin-2-one | 280 mg, 19% | ClC=1C=C2C(=C(C(NC2=CC1Cl)=O)[N+](=O)[O-])O | C9H4Cl2N2O4
